US07449467B2
tert-Butyl [(1R,3S)-3-({4-hydroxy-4-[2-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)-3-isopropylcyclopentyl]carbamate
To a solution of (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (150 mg, 0.55 mmol), 4-[2-(trifluoromethyl)phenyl]piperidin-4-ol hydrochloride (170 mg, 0.60 mmol), and triethylamine (0.17 g, 1.6 mmol) in methylene chloride (3 mL) was added (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (0.31 g, 0.60 mmol). After being stirred for 2.5 h, the reaction was quenched by addition of a saturated NaHCO3 solution. The resulting solution was extracted with methylene chloride three times. The combined extracts were dried (MgSO4), filtered, and concentrated. The crude product was carried on to the next step without purification. MS calculated for C26H37F3N2O4: (M+H) 499; found 499.2.

reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 0.55 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | 4-[2-(trifluoromethyl)phenyl]piperidin-4-ol hydrochloride | 0.60 mmol, 170 mg | Cl.FC(C1=C(C=CC=C1)C1(CCNCC1)O)(F)F
reactant | triethylamine | 1.6 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.60 mmol, 0.31 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,3S)-3-({4-hydroxy-4-[2-(trifluoromethyl)phenyl]piperidin-1-yl}carbonyl)-3-isopropylcyclopentyl]carbamate | OC1(CCN(CC1)C(=O)[C@@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C)C1=C(C=CC=C1)C(F)(F)F | C26H37F3N2O4
